US05955464
4-Chloro-6-fluoroquinazoline (1.1 g) was suspended in isopropanol (20 ml) and 3-methylaniline (0.65 ml) was added. The mixture was heated to reflux for 2 hours. The reaction mixture was allowed to cool and the precipitate was filtered off. The solid so obtained was suspended in 2N aqueous hydrochloric acid and stirred for several minutes. The mixture was filtered to give 6-fluoro-4-(3-methylanilino)quinazoline hydrochloride salt in 43% yield, m.p. 255-260° C.;

reactant | 4-Chloro-6-fluoroquinazoline | 1.1 g | ClC1=NC=NC2=CC=C(C=C12)F | C8H4ClFN2
reactant | 3-methylaniline | 0.65 ml | CC=1C=C(N)C=CC1 | C7H9N
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
solvent | hydrochloric acid | 2N | Cl | ClH
product | 6-fluoro-4-(3-methylanilino)quinazoline hydrochloride salt | 43% yield | Cl.FC=1C=C2C(=NC=NC2=CC1)NC1=CC(=CC=C1)C | InChI=1S/C15H12FN3.ClH/c1-10-3-2-4-12(7-10)19-15-13-8-11(16)5-6-14(13)17-9-18-15;/h2-9H,1H3,(H,17,18,19);1H
